### PR TITLE
[Merged by Bors] - feat(KrullDimension): Order.height_eq_index_of_length_eq_height_last

### PR DESCRIPTION
**Pull request by nomeata**
This pulls the next interesting lemma off the too-large PR #15524, and towards that
creates useful `height_le` and `length_le_height` lemmas to show inequalities involving `height`.

From the Carleson project.

---

- [x] depends on: #16480

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -81,9 +81,27 @@ variable {α β : Type*}
 
 variable [Preorder α] [Preorder β]
 
+/--
+Alternative definition of height, with the supremum only ranging over those series
+that end at `a`.
+-/
+lemma height_eq_iSup_last_eq (a : α) :
+    height a = ⨆ (p : LTSeries α) (_ : p.last = a), ↑(p.length) := by
+  apply le_antisymm
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:90]:
```suggestion
  apply le_antisymm _ (biSup_mono fun _ => le_of_eq)
```
and that saves you from half the proof

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -81,9 +81,27 @@ variable {α β : Type*}
...
+    apply le_iSup₂_of_le p' (by simp [p']) (by simp [p']; norm_cast; omega)
+  · apply iSup₂_le
+    intro p hlast
+    apply le_iSup₂_of_le p (by simp [hlast]) (by simp)
+
 lemma height_le {x : α} {n : ℕ∞} :
-    height x ≤ n ↔ ∀ (p : LTSeries α), p.last ≤ x → p.length ≤ n := by
-  simp [height, iSup_le_iff]
+    (∀ (p : LTSeries α), p.last = x → p.length ≤ n) → height x ≤ n := by
+  simp [height_eq_iSup_last_eq, iSup_le_iff.mpr]
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:104]: Accident?

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -103,9 +121,31 @@ lemma length_le_height {p : LTSeries α} {x : α} (hlast : p.last ≤ x) :
...
+-/
+lemma index_le_height (p : LTSeries α) (i : Fin (p.length + 1)) : i ≤ height (p i) :=
+  length_le_height_last (p := p.take i)
+
+/--
+In a maximally long series, i.e one as long as the height of the last element, the height of each
+element is its index in the series.
+-/
+lemma height_eq_index_of_length_eq_height_last (p : LTSeries α) (h : p.length = height p.last)
+    (i : Fin (p.length + 1)) : height (p i) = i := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:141]: Can you turn this into an iff?
```suggestion
lemma height_eq_index_of_length_eq_height_last {p : LTSeries α}
    p.length = height p.last ↔ ∀ i, height (p i) = i := by
```

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:104]: No, see the PR description: As I was updating the development I found that the `height_le(_iff)` lemma is simply not needed anywhere, but I do often need to prove `height x ≤ n` and the stronger assumption (with the equality) is helpful.

I guess I could phrase this as an `iff` lemma, and use with `.mpr`, but what’s the point of an iff lemma if you only ever use one direction (for the other direction, it’s usually better to have the inquality, as that’s more general.

File: Mathlib/Order/KrullDimension.lean (hunk 3 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:141]: Yes, but is that useful? The other direction is a triviality and would hold for any function, not just `height`

I have a sense that you value `iff` lemmas more than I do, maybe I am missing something about their usefulness and ergonomics (besides when they are nice as rewriting rules) – what am I missing?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:141]: They can be used in `simp` and `rw`! That's the main appeal to me

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:140]: Hmm, but rewrite rules that have equalities as their `lhs`, are they commonly useful? I wouldn’t expect, say, the equality `p.length = height p.last` to appear a lot nested inside some goal so that one would want to reach for rewriting?

I do expect that maybe one wants to rewrite `height (p i)` to `i` using `rw`, but then you does the original formulation as an implications, so that `height (p i)` is the lhs of the rule?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:140]: > rewrite rules that have equalities as their `lhs`, are they commonly useful?

Yes, I certainly use them often

> I wouldn’t expect, say, the equality `p.length = height p.last` to appear a lot nested inside some goal so that one would want to reach for rewriting?

That might be true. I don't really know what to expect here

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:103]: > I guess I could phrase this as an `iff` lemma, and use with `.mpr`, but what’s the point of an iff lemma if you only ever use one direction (for the other direction, it’s usually better to have the inquality, as that’s more general.

It's the universal property of `height`. That seems rather important!

Whenever I define some kind of supremum/infimum, the universal property is the single most useful lemma in all of its API.

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -81,9 +81,26 @@ variable {α β : Type*}
...
+-/
+lemma height_eq_iSup_last_eq (a : α) :
+    height a = ⨆ (p : LTSeries α) (_ : p.last = a), ↑(p.length) := by
+  apply le_antisymm _ (biSup_mono fun _ => le_of_eq)
+  apply iSup₂_le
+  intro p hlast
+  wlog hlenpos : p.length ≠ 0
+  · simp_all
+  -- We replace the last element in the series with `a`
+  apply le_iSup₂_of_le <|
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:96]: eg these uses of the `iSup₂` API show that your API for `height` is lacking

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:96]: Hmm, yes, but the reason is that I am building the basic API here. Maybe it would be cleaner to define the ”stronger” `height_le` first (which is the second part of this proof) and then build this equality next. Will try when at the computer next.

There is the tension that `height` has two similar definitions (eq or < in the condition), and some lemmas are more useful with the one form and some others with the other form (and I'd say it's helpful to only have the more useful variant)

File: Mathlib/Order/KrullDimension.lean (hunk 2 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:103]: Yeah, I had them originally. Will put them back. And I guess I'll just include both variants (with = and with ≤), maybe more efficient than trying to guess which ones will actually be needed.

File: Mathlib/Order/KrullDimension.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:96]: > (and I'd say it's helpful to only have the more useful variant)

I would say this is true only when one lemma clearly has a strictly more useful form. The universal property is not clearly more useful one way or the other since it is by definition used both forward and backward

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:96]: Right - and because I couldn't decide which of the two is more useful, and because it seems that it was unused in my development, I removed both. But will just put both back.

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -81,9 +81,37 @@ variable {α β : Type*}
 
 variable [Preorder α] [Preorder β]
 
-lemma height_le {x : α} {n : ℕ∞} :
-    height x ≤ n ↔ ∀ (p : LTSeries α), p.last ≤ x → p.length ≤ n := by
-  simp [height, iSup_le_iff]
+lemma height_le_iff {a : α} {n : ℕ∞} :
+    height a ≤ n ↔ ∀ (p : LTSeries α), p.last ≤ a → p.length ≤ n := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:85]:
```suggestion
    height a ≤ n ↔ ∀ ⦃p : LTSeries α⦄, p.last ≤ a → p.length ≤ n := by
```
for usability

File: Mathlib/Order/KrullDimension.lean [hunk 6]
```diff
@@ -81,9 +81,37 @@ variable {α β : Type*}
...
+  wlog hlenpos : p.length ≠ 0
+  · simp_all
+  -- We replace the last element in the series with `a`
+  let p' := p.eraseLast.snoc a (lt_of_lt_of_le (p.eraseLast_last_rel_last (by simp_all)) hlast)
+  rw [show p.length = p'.length by simp [p']; omega]
+  apply h
+  simp [p']
+
+lemma height_le_iff' {a : α} {n : ℕ∞} :
+    height a ≤ n ↔ ∀ (p : LTSeries α), p.last = a → p.length ≤ n := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:101]:
```suggestion
    height a ≤ n ↔ ∀ ⦃p : LTSeries α⦄, p.last = a → p.length ≤ n := by
```

**Review by YaelDillies — COMMENTED** [review]
The rest looks good

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
